US06878748B2
d) 4-(3,3-Difluoro-cyclobutylamino)-5-methanesulfonyl-2-methyl-benzoic Acid
210 mg of 4-(3,3-Difluoro-cyclobutylamino)-5-methanesulfonyl-2-methyl-benzoic acid methyl ester were dissolved using 10 ml of dioxane, and 0.47 ml of a 2N aqueous NaOHsolution was added. The mixture was stirred for 18 h at ambient temperature. Afterwards, the solvents were removed in vacuo. The residue was then taken up using 10 ml of water. The pH was adjusted to pH=2 using an aqueous HClsolution and extracted three times using 20 ml of EE each time. The organic layer was dried over MgSO4 and the solvent removed in vacuo. Yield: 196 mg of an amorphous solid.

reactant | 4-(3,3-Difluoro-cyclobutylamino)-5-methanesulfonyl-2-methyl-benzoic acid methyl ester | 210 mg | COC(C1=C(C=C(C(=C1)S(=O)(=O)C)NC1CC(C1)(F)F)C)=O | C14H17F2NO4S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-(3,3-Difluoro-cyclobutylamino)-5-methanesulfonyl-2-methyl-benzoic Acid | FC1(CC(C1)NC1=CC(=C(C(=O)O)C=C1S(=O)(=O)C)C)F | C13H15F2NO4S
